US07541372B2
a) 5-Methyl-3-thiophen-3-yl-isoxazole-4-carboxylic acid ethyl ester
As described for example 69a, N-hydroxy-thiophene-3-carboximidoyl chloride (Organic Letters, 8(17), 3679-3680, 2006, 11.4 g, 69.6 mmol) instead of N-hydroxybenzenecarboximidoyl chloride using ethyl 2-butynoate instead of cyclopropyl-propynoic acid ethyl ester was converted to the title compound (15.0 g, 91%) which was obtained as a dark brown liquid. MS: m/e=238.0 [M+H]+.

reactant | N-hydroxy-thiophene-3-carboximidoyl chloride | 69.6 mmol, 11.4 g | ON=C(C1=CSC=C1)Cl | C5H4ClNOS
reactant | ethyl 2-butynoate | C(C#CC)(=O)OCC | C6H8O2
product | 5-Methyl-3-thiophen-3-yl-isoxazole-4-carboxylic acid ethyl ester | 15.0 g, 91% | C(C)OC(=O)C=1C(=NOC1C)C1=CSC=C1 | C11H11NO3S
